* Electrometer Transimpedance Amplifier (LMC6001 Ultra-Low Bias)
* Vout = -Iin * Rf = -1nA * 1G = -1V (with 1G feedback)
* Full-scale: ~12nA (limited by +/-12V supply / 1G)
* Bandwidth: fc = 1/(2*pi*Rf*Cf) = 1/(2*pi*1G*10p) ~16Hz
* Generated by kicad_pipeline.py

* Dual power supply
VCC VCC 0 12
VEE VEE 0 -12

* Op-amp in TIA configuration
* Non-inverting input (+) to ground (virtual ground reference)
XU1 0 INV VCC VEE TIA_OUT LMC6001_NS

* Feedback: Rf=1G, Cf=10pF (stability)
Rf TIA_OUT INV 1G
Cf TIA_OUT INV 10p

* Test current: 1nA pulse (simulates picoamp-scale sensor)
* Pulse: 0 to 1nA, 10ms delay, 10us rise/fall, 80ms on, 200ms period
* Long pulse needed: Rf*Cf = 1G*10p = 10ms time constant (5*tau = 50ms)
I1 0 INV PULSE(0 1n 10m 10u 10u 80m 200m)

* ADC input impedance model (ADuCM362 sigma-delta ~10M)
R_ADC TIA_OUT 0 10Meg

* Model
.SUBCKT LMC6001_NS     1   2  99  50  28
* CAUTION:  SET .OPTIONS GMIN=1E-16 TO CORRECTLY MODEL INPUT BIAS CURRENT.
*
* Features:
* Operates from single supply
* Rail-to-rail output swing
* Low offset voltage (max) =           800uV
* Ultra low input current (max) =      100fA
* Slew rate =                        1.5V/uS
* Gain-bandwidth product =            1.3MHz
* Supply current =                     450uA
*
* NOTE: This CMOS electrometer simulates guaranteed (100% tested)
*       input offset voltage (VOS)   input bias current (IB)
*
* NOTE: - Noise is not modeled.
*       - Asymmetrical gain is not modeled.
*
CI1 1  50 2P
CI2 2  50 2P
* 1.634 Hz pole capacitor
C3  98 9  9.715N
* 1.1 MHz pole capacitor
C4  6  5  13.95P
* 4.98 MHz pole capacitor
C5  98 15 31.9F
* Drain-substrate capacitor
C6  50 4  3P
* 28.6 MHz pole capacitor
C7  98 11 5.62F
DP1 1  99 DA
DP2 50 1  DD
DP3 2  99 DB
DP4 50 2  DC
D1  9  8  DX
D2  10 9  DX
D3  18 20 DX
D4  21 18 DX
D5  26 24 DX
D6  25 27 DX
D7  22 99 DX
D8  50 22 DX
D9  0  14 DX
D10 12 0  DX
EH  97 98 99    49 1.0
EN  0  96 0     50 1.0
* Input offset voltage -|
EOS 7  1  POLY(1) 16 49 800U 1
EP  97 0  99    0  1.0
E1  97 19 99    18 1.0
* Sourcing load +Vs current
F1  99 0  VA2   1
* Sinking load -Vs current
F2  0  50 VA3   1
F3  13 0  VA1   1
G1  98 9  5     6  0.1
G2  98 11 9     49 1U
G3  98 15 11    49 1U
* DC CMRR
G4  98 16 POLY(2) 1 49 2 49 0 1.26E-8 1.26E-8
G5  98 18 15    49 1U
I1  99 4  33.46U
I2  99 50 366.5U
* Load dependent pole
L1  22 28 80.4U
* CMR lead inductor
L2  16 17 73.1M
* 3.30 MHz lead inductor
L3  98 3  48.2M
M1  5  2  4     99 MX
M2  6  7  4     99 MX
R3  5  50 5.18K
R4  6  50 5.18K
R5  98 9  1E7
R8  99 49 50K
R9  49 50 50K
R10 18 3  1E6
R12 98 11 1E6
R13 98 17 1K
* -Rout
R16 23 24 70.7
* +Rout
R17 23 25 80.3
* +Isc slope control
R18 20 29 64K
* -Isc slope control
R19 21 30 130K
R21 98 15 1E6
R22 22 28 636
VA1 19 23 0V
VA2 14 13 0V
VA3 13 12 0V
V2  97 8  0.713V
V3  10 96 0.710V
V4  29 22 1.170V
V5  22 30 0.63V
V6  26 22 0.63V
V7  22 27 0.63V
* Input bias and offset current differences
.MODEL  DA D    (IS=500FA)
.MODEL  DB D    (IS=500FA)
.MODEL  DC D    (IS=405FA)
.MODEL  DD D    (IS=400FA)
.MODEL  DX D    (IS=1.0E-14)
.MODEL  MX PMOS (VTO=-2.456 KP=7.0547E-4)
.ENDS

* Simulation (long enough for 5*tau = 50ms settling)
.tran 100u 200m

.control
run
wrdata electrometer_results.txt V(TIA_OUT) V(INV)
quit
.endc

.end
