* Electrometer TIA AC Analysis - ADuCM362
* Op-amp: LMC6001 Ultra-Low Bias, Range 2: Rf=1G
* Dual supply for simulation (real hardware: single 3.3V + ADA4530-1)

VCC VCC 0 DC 5
VEE VEE 0 DC -5

XU1 0 INV VCC VEE TIA_OUT LMC6001_NS

Rf INV TIA_OUT 1G
Cf INV TIA_OUT 10p

RL TIA_OUT 0 10Meg

* AC current source (1A for direct transimpedance reading)
I1 0 INV AC 1

.ac dec 50 0.01 1Meg

.control
run
let zmag = mag(V(TIA_OUT))
wrdata electrometer_362_ac.txt zmag
.endc

.SUBCKT LMC6001_NS     1   2  99  50  28
* CAUTION:  SET .OPTIONS GMIN=1E-16 TO CORRECTLY MODEL INPUT BIAS CURRENT.
*
* Features:
* Operates from single supply
* Rail-to-rail output swing
* Low offset voltage (max) =           800uV
* Ultra low input current (max) =      100fA
* Slew rate =                        1.5V/uS
* Gain-bandwidth product =            1.3MHz
* Supply current =                     450uA
*
* NOTE: This CMOS electrometer simulates guaranteed (100% tested)
*       input offset voltage (VOS)   input bias current (IB)
*
* NOTE: - Noise is not modeled.
*       - Asymmetrical gain is not modeled.
*
CI1 1  50 2P
CI2 2  50 2P
* 1.634 Hz pole capacitor
C3  98 9  9.715N
* 1.1 MHz pole capacitor
C4  6  5  13.95P
* 4.98 MHz pole capacitor
C5  98 15 31.9F
* Drain-substrate capacitor
C6  50 4  3P
* 28.6 MHz pole capacitor
C7  98 11 5.62F
DP1 1  99 DA
DP2 50 1  DD
DP3 2  99 DB
DP4 50 2  DC
D1  9  8  DX
D2  10 9  DX
D3  18 20 DX
D4  21 18 DX
D5  26 24 DX
D6  25 27 DX
D7  22 99 DX
D8  50 22 DX
D9  0  14 DX
D10 12 0  DX
EH  97 98 99    49 1.0
EN  0  96 0     50 1.0
* Input offset voltage -|
EOS 7  1  POLY(1) 16 49 800U 1
EP  97 0  99    0  1.0
E1  97 19 99    18 1.0
* Sourcing load +Vs current
F1  99 0  VA2   1
* Sinking load -Vs current
F2  0  50 VA3   1
F3  13 0  VA1   1
G1  98 9  5     6  0.1
G2  98 11 9     49 1U
G3  98 15 11    49 1U
* DC CMRR
G4  98 16 POLY(2) 1 49 2 49 0 1.26E-8 1.26E-8
G5  98 18 15    49 1U
I1  99 4  33.46U
I2  99 50 366.5U
* Load dependent pole
L1  22 28 80.4U
* CMR lead inductor
L2  16 17 73.1M
* 3.30 MHz lead inductor
L3  98 3  48.2M
M1  5  2  4     99 MX
M2  6  7  4     99 MX
R3  5  50 5.18K
R4  6  50 5.18K
R5  98 9  1E7
R8  99 49 50K
R9  49 50 50K
R10 18 3  1E6
R12 98 11 1E6
R13 98 17 1K
* -Rout
R16 23 24 70.7
* +Rout
R17 23 25 80.3
* +Isc slope control
R18 20 29 64K
* -Isc slope control
R19 21 30 130K
R21 98 15 1E6
R22 22 28 636
VA1 19 23 0V
VA2 14 13 0V
VA3 13 12 0V
V2  97 8  0.713V
V3  10 96 0.710V
V4  29 22 1.170V
V5  22 30 0.63V
V6  26 22 0.63V
V7  22 27 0.63V
* Input bias and offset current differences
.MODEL  DA D    (IS=500FA)
.MODEL  DB D    (IS=500FA)
.MODEL  DC D    (IS=405FA)
.MODEL  DD D    (IS=400FA)
.MODEL  DX D    (IS=1.0E-14)
.MODEL  MX PMOS (VTO=-2.456 KP=7.0547E-4)
.ENDS

.end
